US06528653B2
A mixture of 5-nitrothiophene-2-carboxaldehyde (10 g, 64 mmol), hydroxylamine hydrochloride (9.4 g, 130 mmol) and sodium hydroxide (4.34 g, 107 mmol) in ethanol/water (150 ml, 2:1) was heated to reflux for 2 hours, then diluted with dichloromethane and washed with water. The organic layer was dried over magnesium sulfate and evaporated to dryness to give 8.8 g of 5-nitro-2-thiophene-carboxaldehyde oxime as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ: 7.54 (1H, d), 8.13 (1H, s), 8.16 (1H, d), 13.14 (1H, s).

reactant | 5-nitrothiophene-2-carboxaldehyde | 64 mmol, 10 g | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
reactant | hydroxylamine hydrochloride | 130 mmol, 9.4 g | Cl.NO
reactant | sodium hydroxide | 107 mmol, 4.34 g | [OH-].[Na+]
solvent | ethanol water | 150 ml | C(C)O.O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-nitro-2-thiophene-carboxaldehyde oxime | 8.8 g | [N+](=O)([O-])C1=CC=C(S1)C=NO | C5H4N2O3S
